US09102671B2
To a solution of 3-bromo-5-fluorobenzonitrile (5.2 g, 0.26 mmol) in THF (26 mL) at −78° C. was slowly added isopropylmagnesium chloride (13.6 mL of a 2.0 M solution in diethyl ether, 0.27 mmol). The mixture was warmed and stirred at −30° C. for 1 hour then cooled to −78° C. The resulting aryl Grignard was added to a solution of (R)-tert-butyl 4-(tert-butyldimethylsilyloxy)-2-oxopyrrolidine-1-carboxylate (I-1) (7.8 g, 25 mmol) in THF (25 mL) at −78° C. The reaction mixture was stirred at 0° C. for 30 minutes. Methanol (20 mL) was added to the reaction mixture followed by NaBH4 (1.4 g, 37 mmol). The mixture was stirred to room temperature for 12 hours then poured into 10% aqueous NH4Cl. The mixture was extracted with EtOAc, washed with brine, dried over sodium sulfate, filtered and concentrated. The crude product was purified by column chromatography on silica gel with EtOAc/hexanes gradient as eluant to yield tert-butyl ((2R)-2-((tert-butyldimethylsilyl)oxy)-4-(3-cyano-5-fluorophenyl)-4-hydroxybutyl)carbamate (I-10). 1H NMR (400 MHz, CDCl3) δ 7.47 (s, 1 H), 7.38-7.33 (m, 1 H), 7.25-7.20 (m, 1 H), 4.95 (d, J=9.2 Hz, 1 H), 4.81 (bs, 1 H), 4.12-4.05 (m, 1 H), 3.76 (bs, 1 H), 3.45-3.35 (m, 1 H), 3.23-3.12 (m, 1 H), 1.87-1.71 (m, 2 H), 1.45 (s, 9 H), 0.91 (s, 9 H), 0.12 (s, 6 H). MS m/z 461.2 (M+23)+.

reactant | 3-bromo-5-fluorobenzonitrile | 0.26 mmol, 5.2 g | BrC=1C=C(C#N)C=C(C1)F | C7H3BrFN
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | (R)-tert-butyl 4-(tert-butyldimethylsilyloxy)-2-oxopyrrolidine-1-carboxylate | 25 mmol, 7.8 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC(N(C1)C(=O)OC(C)(C)C)=O | C15H29NO4Si
reactant | NaBH4 | 37 mmol, 1.4 g | [BH4-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 26 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | Methanol | 20 mL | CO | CH4O
product | tert-butyl ((2R)-2-((tert-butyldimethylsilyl)oxy)-4-(3-cyano-5-fluorophenyl)-4-hydroxybutyl)carbamate | [Si](C)(C)(C(C)(C)C)O[C@@H](CNC(OC(C)(C)C)=O)CC(O)C1=CC(=CC(=C1)F)C#N | C22H35FN2O4Si
